US03988448
To the stirred solution of 5.06 g of 7,7-diphenyl-hexahydro-1,4-oxazepine in 50 ml of methylene chloride, 2.6 g of allyl bromide are added, followed by 40 ml of 10% aqueous sodium bicarbonate and the mixture is stirred for 24 hours at room temperature. The organic layer is separated, washed with water, dried, filtered and evaporated. The residue is taken up in acetone, the solution acidified with hydrogen chloride in acetone and diluted with diethyl ether, to yield the 4-allyl-7,7-diphenyl-hexahydro-1,4-oxazepine hydrochloride melting at 246° to 247°.

reactant | 7,7-diphenyl-hexahydro-1,4-oxazepine | 5.06 g | C1(=CC=CC=C1)C1(CCNCCO1)C1=CC=CC=C1 | C17H19NO
reactant | allyl bromide | 2.6 g | C(C=C)Br | C3H5Br
reactant | sodium bicarbonate | 40 ml | C([O-])(O)=O.[Na+]
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-allyl-7,7-diphenyl-hexahydro-1,4-oxazepine hydrochloride | Cl.C(C=C)N1CCOC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C20H23NO.ClH/c1-2-14-21-15-13-20(22-17-16-21,18-9-5-3-6-10-18)19-11-7-4-8-12-19;/h2-12H,1,13-17H2;1H
